US08748613B2
Ethyl 2-bromo-2-phenylacetate (0.22 ml, 1.23 mmol) was dissolved in acetonitrile (4 ml). DIPEA (0.28 ml, 1.60 mmol) and piperidine-4-carboxamide (0.21 g, 1.60 mmol) were sequentially added. The reaction was stirred at room temperature overnight. The mixture was evaporated and the residue was purified by flash chromatography (DCM/Acetone=8/2). The solid was triturated with i-Pr2O to obtain ethyl 2-(4-carbamoylpiperidin-1-yl)-2-phenylacetate (239 mg, 66.7% yield) as a pale yellow solid.

reactant | Ethyl 2-bromo-2-phenylacetate | 1.23 mmol, 0.22 ml | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | DIPEA | 1.60 mmol, 0.28 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | piperidine-4-carboxamide | 1.60 mmol, 0.21 g | N1CCC(CC1)C(=O)N | C6H12N2O
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | ethyl 2-(4-carbamoylpiperidin-1-yl)-2-phenylacetate | 239 mg, 66.7% yield | C(N)(=O)C1CCN(CC1)C(C(=O)OCC)C1=CC=CC=C1 | C16H22N2O3
